US05041543
1-(3-Azido-2,3-dideoxy-5-O-pivaloyl-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone
1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone (0.4 g, 1.59 mMol) was dissolved in dry pyridine (10 mL) at 0° C. under a nitrogen atmosphere. Pivaloyl chloride (0.588 mL; 4.78 mMol) was added with stirring and allowed to react for 72 hours. The reaction was quenched with ice then evaporated to dryness. The residue was chromatographed on silica gel eluted with 20:1 CHCl3 /MeOH (v/v) and the appropriate fractions combined and evaporated to give the title compound: mp =121°-123° C.; UV (nm): at pH 1λmax =327 (ε=5900), λmin =269 (ε=820); at pH 13λmax =322 (ε=17200), λmin =251 (ε=850); 1H NMR: (DMSO-d6) δ8.48(d, J=3.12 Hz, 1H, H4), 7.88(d, J=3.27 Hz, 1H, H6), 6.02(t, J=6.25 Hz, 1H, H1 '), 4.48-4.39(m, 1H, H3 '), 4.31-4.28(m, 2H, H5 '), 4.20-4.14(m, 1H, H4 '), 2.62-2.50(m, 1H, H2 '), 2.41-2.27(m, 1H, H2 '), 2.04(s, 3H, 5-CH3), 1.12(s, 9H, -C(CH3)3).

reactant | 1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone | 1.59 mMol, 0.4 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(N=CC(=C1)C)=O | C10H13N5O3
reactant | Pivaloyl chloride | 4.78 mMol, 0.588 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3-Azido-2,3-dideoxy-5-O-pivaloyl-β-D-erythro-pentofuranosyl)-5-methyl-2(1H)-pyrimidinone | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1COC(C(C)(C)C)=O)N1C(N=CC(=C1)C)=O | C15H21N5O4
